US04826990
3-[(2-phenyl-4-thiazolyl)methoxy]benzenamine
A solution of 16.0 g (0.05 mol) of 4-[(3-nitrophenoxy)methyl-2-phenylthiazole and 56.5 g (0.25 mol) of stannous chloride dihydrate in 300 ml of absolute ethanol is heated to reflux for 20 hours. The mixture is poured into 2 L of water and made alkaline by the addition of solid sodium bicarbonate. The mixture is extracted twice with 1 L of ethyl acetate. The combined ethyl acetate layers are washed twice with dilute aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain 12.0 g (85%) of an oil, which solidifies. The crystals, m.p. 75°-80° C., MS (CI) 283 (M+H), are used without further purification in subsequent reactions.

reactant | (3-nitrophenoxy)methyl-2-phenylthiazole | [N+](=O)([O-])C=1C=C(OCC=2N=C(SC2)C2=CC=CC=C2)C=CC1 | C16H12N2O3S
reactant | water | 2 L | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-[(2-phenyl-4-thiazolyl)methoxy]benzenamine | 12.0 g, 85% | C1(=CC=CC=C1)C=1SC=C(N1)COC=1C=C(C=CC1)N | C16H14N2OS
